2155-09-05 05:11:00 Physician Resident Progress Note
Chief Complaint: 54F with metastatic bronchogenic carcinoma, bilat pulm
   emboli presents from OSH with suspected cord compression.
   24 Hour Events:
   Neurosurgery eval - no plan to operate, d/c steroids per neurosurg recs
   Pulm consulted for bronch, on schedule for today, will see in AM
   IVC filter placed in IR for PE history
   CT of T-spine L-spine, Wet read - Collapse of vertebral body of T6,
   likely pathological fracture from mets. L1 vertebral body hypodensity,
   likely metastasis. Right iliac bone lucent lesion, likely metastatic
   involvement. Large mass at the right hilum aith atelectasis, in keeping
   with known lung cancer.
 EKG - At [**2155-9-4**] 03:56 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2155-9-4**] 04:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-9-5**] 05:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 91 (79 - 92) bpm
   BP: 89/58(65) {89/57(65) - 120/76(84)} mmHg
   RR: 19 (12 - 20) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    570 mL
                                                                    135 mL
   Urine:
                                                                    570 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -570 mL
                                                                   -135 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   Neuro: AOx3
   Motor strength 5/5 bilateral in lower extremity
   Without sensory deficit in lower extremity
   Normal babinski
   CV: RRR without murmurs, rubs, or gallops
   Resp: mild wheezing, good air movement
   Abd: soft, nontender, nondistended, positive bowel sounds
   Ext: warm
   Labs / Radiology
   302 K/uL
   12.8 g/dL
   128 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.7 mEq/L
   8 mg/dL
   101 mEq/L
   140 mEq/L
   38.0 %
   12.5 K/uL
        [image002.jpg]
                             [**2155-9-4**]  03:51 PM
   WBC
   12.5
   Hct
   38.0
   Plt
   302
   Cr
   0.4
   Glucose
   128
   Other labs: PT / PTT / INR:14.1/25.8/1.2, ALT / AST:14/23, Alk Phos / T
   Bili:179/0.4, Differential-Neuts:93.8 %, Lymph:4.4 %, Mono:1.5 %,
   Eos:0.1 %, Albumin:4.0 g/dL, LDH:467 IU/L, Ca++:9.3 mg/dL, Mg++:2.0
   mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   This is a 54-year-old portugese-speaking woman with likely metastatic
   bronchogenic carcinoma, and bilateral pulmonary emboli, who is
   transferred from [**Hospital 880**] hospital for evaluation for cord
   compression.
   .
   # Back pain: MRI with evidence of cord comression, however neurologic
   symptoms in OSH ED were likely [**3-3**] pain and not consistent with T6
   lesion.  Currently neurologically intact.  She was evaluted by
   neurosurgery on admission.  Will hold on steroids per their recs and
   given clinical stability. CT without contrast of thoracic and lumbar
   spine complete, awaiting final read.
   - bedrest, TLSO, logroll precautions until brace
   - neurosurgery recs.
   - Consult rad-onc and heme-onc teams
   .
   # Pulmonary emboli: No current evidence of hemodynamic compromise from
   PE.  However, they appear significant on imaging.  Further embolization
   from deep veins could be fatal, however systemic anticoagulation
   contraindicated given brain mets.
   - DVT filter to be placed by IR
   .
   # Bronchogenic carcinoma: Needs tissue diagnosis.  Pulmonary was
   consulted.
   - Broncoscopy and biopsy on [**9-5**]
   - Will consult Rad-Onc in AM for consideration of XRT
   .
   # Herpes opthamicus: Followed by [**Hospital 2663**]; has been on
   acyclovir for what should be a 2 year course.
   - continue acyclovir
   - outpatient follow up.
   .
   # Leukocytosis and hyperglycemia: mild and likely related to
   prednisone.
   - continue to trend CBC
   .
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripherals
   .
   # Social work consult
   .
   # Code: Confirmed full
   .
   # Communication: Patient and family.  Requests to know timing of
   procedures so that they can be there.
   .
   # Disposition: pending above
 ANXIETY
 PULMONARY EMBOLISM (PE), ACUTE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2155-9-4**] 03:31 PM
   20 Gauge - [**2155-9-4**] 03:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition:

2155-09-06 08:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Got TLSO brace to wear when sitting up >30 degrees or OOB.
   Bled copiously with lung bx HCT remained stable -path pending.
   Increased dilaudid for pain control.  Diet restarted.
   Got [**Last Name (LF) **], [**First Name3 (LF) **] continue to get post bronch sputum Cx.
   SW consulted, recs  pending.
   [**Month (only) 51**] go to [**Hospital Ward Name 1437**] to begin radiation therapy.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2155-9-5**] 03:13 PM
   Midazolam (Versed) - [**2155-9-5**] 03:13 PM
   Lorazepam (Ativan) - [**2155-9-5**] 11:19 PM
   Hydromorphone (Dilaudid) - [**2155-9-6**] 12:33 AM
   Heparin Sodium (Prophylaxis) - [**2155-9-6**] 07:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-9-6**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 75 (73 - 100) bpm
   BP: 100/68(74) {95/54(64) - 112/76(83)} mmHg
   RR: 15 (11 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    570 mL
                  PO:
                                                                    420 mL
                  TF:
   IVF:
                                                                    150 mL
   Blood products:
   Total out:
                                                                  1,480 mL
                                                                    425 mL
   Urine:
                                                                  1,480 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -910 mL
                                                                   -425 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   411 K/uL
   12.1 g/dL
   93 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.3 mEq/L
   18 mg/dL
   102 mEq/L
   142 mEq/L
   36.8 %
   11.9 K/uL
        [image002.jpg]
                             [**2155-9-4**]  03:51 PM
                             [**2155-9-5**]  04:26 AM
                             [**2155-9-5**]  03:46 PM
                             [**2155-9-6**]  04:50 AM
   WBC
   12.5
   13.8
   12.2
   11.9
   Hct
   38.0
   34.6
   34.6
   36.8
   Plt
   [**Telephone/Fax (3) 9303**]11
   Cr
   0.4
   0.6
   0.5
   Glucose
   128
   109
   93
   Other labs: PT / PTT / INR:13.4/27.3/1.1, ALT / AST:13/18, Alk Phos / T
   Bili:163/0.4, Differential-Neuts:83.1 %, Lymph:11.2 %, Mono:5.4 %,
   Eos:0.1 %, Albumin:4.0 g/dL, LDH:327 IU/L, Ca++:8.7 mg/dL, Mg++:2.2
   mg/dL, PO4:4.1 mg/dL
   Imaging: 1. Complete collapse of vertebral body of T6, likely
   pathologic fracture,
   with metastatic involvement of the right pedicle at this level.
   Metastatic
   involvement of vertebral body of L1, lower left portion, with
   involvement of
   the left pedicle.
   2. Lucent lesion in the right iliac bone, with cortical destruction and
   extension in the soft tissue.
   3. Right hilar mass, with associated atelectasis, in keeping with
   diagnosis
   of known lung cancer. Atelectasis at the left lung. Prominent lymph
   nodes in
   the mediastinum and hilum.
   4. Prominence of the adrenal glands bilaterally, likely metastatic
   involvement.
   5. Lesion in the liver, likely metastatic deposit.
   Microbiology: [**Telephone/Fax (3) **] [**9-6**] pending
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), LUNG
 ANXIETY
 PULMONARY EMBOLISM (PE), ACUTE
   This is a 54-year-old portugese-speaking woman with likely metastatic
   bronchogenic carcinoma, and bilateral pulmonary emboli, who is
   transferred from [**Hospital 880**] hospital for evaluation for cord
   compression.
   # Back pain: MRI with evidence of cord comression, however neurologic
   symptoms in OSH ED were likely [**3-3**] pain and not consistent with T6
   lesion.  Currently neurologically intact.  She was evaluted by
   neurosurgery on admission.  Will hold on steroids per their recs and
   given clinical stability. CT without contrast of thoracic and lumbar
   spine complete, awaiting final read.
   - bedrest, TLSO, logroll precautions until brace
   - q4hr neuro checks
   - radiation today on [**Hospital Ward Name **]
   # Pulmonary emboli: No current evidence of hemodynamic compromise from
   PE.  However, they appear significant on imaging.  Further embolization
   from deep veins could be fatal, however systemic anticoagulation
   contraindicated given brain mets.
   - DVT filter to be placed by IR
   # Bronchogenic carcinoma: Needs tissue diagnosis.  Pulmonary was
   consulted.
   - Broncoscopy and biopsy on [**9-5**]
   - Radiation on [**Hospital Ward Name **] today
   # Herpes opthamicus: Followed by [**Hospital 2663**]; has been on
   acyclovir for what should be a 2 year course.
   - continue acyclovir
   - outpatient follow up.
   # Leukocytosis and hyperglycemia: mild and likely related to
   prednisone.
   - continue to trend CBC
   # Social work consult
   ICU Care
   Nutrition:
   Comments: full liquid
   Glycemic Control:
   Lines:
   18 Gauge - [**2155-9-6**] 04:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:  Patient and family.  Requests to know timing
   of procedures so that they can be there.
   Code status: Full code
   Disposition:Transfer to floor